US09102688B2
2-Methyl-1,4-dihydro-2H-3-thia-2,4,5-triaza-phenanthrene 3,3-dioxide (Example Compound 405)
In a similar fashion using route 27 general procedure 70, 8-amino-quinoline-7-carbaldehyde (100 mg, 0.58 mmol), N-methylsulfamoyl chloride (226 mg, 1.74 mmol), NaBH4 (22 mg, 0.58 mmol) and pyridine (1 ml) gave the title compound (20 mg, 14%) after purification by column chromatography with heptane/EtOAc (90:10) as the eluent.

reactant | 8-amino-quinoline-7-carbaldehyde | 0.58 mmol, 100 mg | NC=1C(=CC=C2C=CC=NC12)C=O | C10H8N2O
reactant | N-methylsulfamoyl chloride | 1.74 mmol, 226 mg | CNS(=O)(=O)Cl | CH4ClNO2S
reactant | NaBH4 | 0.58 mmol, 22 mg | [BH4-].[Na+]
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 2-Methyl-1,4-dihydro-2H-3-thia-2,4,5-triaza-phenanthrene 3,3-dioxide | 20 mg, 14% | CN1CC=2C=CC3=CC=CN=C3C2NS1(=O)=O | C11H11N3O2S
